US04785115
POLYMERIZATION OF 1,2,4,5-TETRAAMINO BENZENE
1,2,4,5-tetraaminobenzene tetrahydrochloride (1.7138 g, 6.033 mmol), 2-benzothiazole terephthalic acid (1.8059 g, 6.033 mmol) and 5.57 g of polyphosphoric acid (77% P2O5) were placed in a resin flask equipped with a mechanical stirrer, nitrogen inlet/outlet tubes, a vacuum connector and a side opening on the resin flask. The solution was heated at 90° C. in vacuo for 24 hours for dehydrochlorination. The reaction mixture was cooled to 60° C., then 4.04 g of P2O5 was added, in vacuo, thereby raising the polymer concentration to 18%. After adding the P2O5, heating was resumed. The reaction mixture was heated to 164° C., at which temperature the mixture became opalescent. The mixture was heated at 174° C. for 24 hours, then at 190° C. for 4 hours. Work-up, as in the preceeding Example, gave a polymer with [N]=7.5 dl/g, methanesulfonic acid at 30° C.

reactant | 1,2,4,5-tetraaminobenzene tetrahydrochloride | 6.033 mmol, 1.7138 g | Cl.Cl.Cl.Cl.NC1=C(C=C(C(=C1)N)N)N
reactant | 2-benzothiazole terephthalic acid | 6.033 mmol, 1.8059 g | S1C(=NC2=C1C=CC=C2)C2=CC(=CC=C2C(=O)O)C(=O)O | C15H9NO4S
reactant | P2O5 | 4.04 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 1,2,4,5-TETRAAMINO BENZENE | NC1=C(C=C(C(=C1)N)N)N | C6H10N4
